US05169855
1-Benzyl 4-(4'-fluorobenzyloxymethyl)piperidine
A suspension of sodium hydride (60% dispersion in oil, 0.76 g, 19 mmol) in anhydrous tetrahydrofuran (38 mL) was stirred at room temperature under a nitrogen atmosphere. A solution of 1-benzyl-4-hydroxymethyl piperidine (3.82 g, 18.6 mmol) was added dropwise. After the addition was completed, the reaction mixture was stirred for 2 h. 4-Fluorobenzyl bromide (2.4 mL, 19 mmol) was added dropwise, then the reaction mixture was stirred for 72 h. Water (50 mL) was added and the resulting mixture was extracted three times with ethyl acetate. Drying over magnesium sulfate, filtration and concentration in vacuo gave an oil. Vacuum distillation (170° C. (Kugelrohr oven), 1.0 Torr) gave a colorless oil (3.45 g, 59% yield): 'H-NMR: 7.34-6.98 (m, 9H), 4.46 (s, 2H), 3.50 (s, 2H), 2.93-2.87 (m, 2H), 2.02-1.59 (m, 5H), 1.39-125 HR-MS Calcd.: 313.1478; Found: 313.1479; (m, 2H); Anal. Calcd.: for C20H24FNO: C,76.65, H,7.72, N,4.47; Found: C,77.27, H,7.69, N,4.45.

reactant | sodium hydride | 19 mmol, 0.76 g | [H-].[Na+]
reactant | 1-benzyl-4-hydroxymethyl piperidine | 18.6 mmol, 3.82 g | C(C1=CC=CC=C1)N1CCC(CC1)CO | C13H19NO
reactant | 4-Fluorobenzyl bromide | 19 mmol, 2.4 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | Water | 50 mL | O | H2O
solvent | tetrahydrofuran | 38 mL | O1CCCC1 | C4H8O
product | 1-Benzyl 4-(4'-fluorobenzyloxymethyl)piperidine | 3.45 g, 59% yield | C(C1=CC=CC=C1)N1CCC(CC1)COCC1=CC=C(C=C1)F | C20H24FNO
